### ISSUE TITLE
feat: prove fast raw irreducibility substrate for BZ capstone

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#7760]
library: HexBerlekampZassenhausMathlib

## Current state

Directive #2564's FactorSoundness capstone (#6672) is blocked on the fast
branch of the raw-factor irreducibility disjunction consumed by
`factor_entries_irreducible`.

Two raw branches are already available unconditionally in
`HexBerlekampZassenhausMathlib/IntReductionMod.lean`:

- slow-trial:
  `factorSlowTrialFactorsWithBound_factor_irreducible_of_fast_none`;
- slow-modular:
  `slowModularRaw_irreducible_of_fast_none`.

The fast branch has only a caller-threaded theorem in
`HexBerlekampZassenhausMathlib/PartitionRefinement.lean`:

```lean
factorFastFactorsWithBound_raw_zpolyIrreducible_of_forwardInputs
```

It has the right conclusion for raw factors returned by
`factorFastFactorsWithBound`, but it still takes `BHKS.ForwardRecoveryInputs`,
`BHKS.CutProjectionHypotheses`, the support-partition count equality,
the loop-output equality `hcore`, and
`Hex.reassemblyExpansionComplete (Hex.normalizeForFactor f) rawFactors` as
free hypotheses. #6672 needs the same conclusion from only the actual
executable fast success.

## Deliverables

1. Add an unconditional fast-branch substrate theorem, with a short name such
   as:

   ```lean
   theorem factorFastRaw_irreducible_of_some
       (f : Hex.ZPoly) {rawFactors : Array Hex.ZPoly}
       (hfast :
         Hex.factorFastFactorsWithBound f (Hex.ZPoly.defaultFactorCoeffBound f) =
           some rawFactors) :
       ∀ raw ∈ rawFactors.toList, Hex.ZPoly.Irreducible raw
   ```

   Equivalent bounded/generalized naming is fine if it composes directly into
   #6672's `h_raw` case split at the default bound.

2. Discharge the hypotheses currently required by
   `factorFastFactorsWithBound_raw_zpolyIrreducible_of_forwardInputs` from the
   executable fast success itself, including the fast-branch
   `reassemblyExpansionComplete` producer and the actual first-success
   `ForwardRecoveryInputs` / `CutProjectionHypotheses` / partition-count
   package. Reuse existing constructors in `Recovery.lean`,
   `TerminationBound.lean`, `Lattice.lean`, and `PartitionRefinement.lean`
   instead of restating the BHKS proof from scratch.

3. Leave #6672's capstone theorem itself untouched except for any public helper
   exposure needed by this substrate. The output of this issue is the reusable
   fast substrate that #6672 can consume in a small follow-up assembly PR.

## Library placement

Target files:

- `HexBerlekampZassenhausMathlib/PartitionRefinement.lean` for the raw-factor
  irreducibility substrate, adjacent to
  `factorFastFactorsWithBound_raw_zpolyIrreducible_of_forwardInputs`;
- `HexBerlekampZassenhausMathlib/Recovery.lean` or
  `HexBerlekampZassenhausMathlib/TerminationBound.lean` only if a missing
  existing constructor needs to be exposed or composed.

SPEC § governing this work:

> `factorFast : ZPoly → Option Factorization`. Van Hoeij CLD at the full BHKS
> precision cap. Conditional correctness: `factorFast f = some φ ⟹ φ is the
> irreducible factorisation of f`.

and Group C:

> Case analysis on the fast attempt at bound `B₀`: when it returns `some gs`,
> B9 (specialised to the bounded variant) gives the irreducible factorisation.

1. **SPEC §:** `SPEC/Libraries/hex-berlekamp-zassenhaus.md` §"Fast path:
   van Hoeij CLD lattice", §"Proof obligations Group B", and Group C's
   public-combinator case split.
2. **Does the natural strategy use Mathlib?** Yes. The result proves
   `Hex.ZPoly.Irreducible` facts via the Mathlib bridge and belongs in
   `HexBerlekampZassenhausMathlib`, not the Mathlib-free executable library.
3. **Mathlib status:** the needed external mathematics is already represented
   by existing in-repo BHKS bridge structures and Mathlib-side polynomial
   irreducibility transport. This issue should compose those surfaces, not wait
   on a new Mathlib PR.
4. **Missing infrastructure:** expected missing infrastructure is exactly the
   fast-success discharge of the free hypothesis package listed in Current
   state. If the theorem cannot be stated without a prerequisite constructor,
   create that small constructor in one of the target bridge files as part of
   this issue; if a larger BHKS premise is found false or absent, stop and
   comment with the concrete gap rather than adding assumptions or `sorry`.

## Context

- Parent directive: #2564.
- Direct blocker being unblocked: #6672.
- Recent substrate: #7739 / PR #7746 added
  `factorFastFactorsWithBound_raw_zpolyIrreducible_of_forwardInputs`, but it is
  conditional on caller-supplied recovery/cut/completeness hypotheses.
- Relevant files:
  - `HexBerlekampZassenhausMathlib/PartitionRefinement.lean`
  - `HexBerlekampZassenhausMathlib/Recovery.lean`
  - `HexBerlekampZassenhausMathlib/TerminationBound.lean`
  - `HexBerlekampZassenhausMathlib/Lattice.lean`
  - `HexBerlekampZassenhausMathlib/IntReductionMod.lean`
  - `HexBerlekampZassenhaus/Basic.lean`

## Verification

- `lake build HexBerlekampZassenhausMathlib.PartitionRefinement`
- `lake build HexBerlekampZassenhausMathlib`
- `lake build HexBerlekampZassenhaus`
- `python3 scripts/check_dag.py`
- `git diff --check`
- Added-line forbidden-token scan over touched files shows no new `sorry`,
  `axiom`, `native_decide`, `TODO`, or `FIXME`.
- `rg -n "factorFastRaw_irreducible_of_some|factorFastFactorsWithBound_raw_zpolyIrreducible_of_forwardInputs|factor_irreducible_of_nonUnit" HexBerlekampZassenhausMathlib`
  confirms the new theorem is visible to #6672's assembly surface.

## Out of scope

- Proving `factor_irreducible_of_nonUnit` in #6672.
- Changing executable factorization behavior.
- Reworking slow-modular or slow-trial irreducibility proofs.
- Proving HO-4 termination / `factorFast` always succeeds at the BHKS cap.

**Comment by kim-em** [comment]
Session: `773bac8b-8b00-4961-8895-f27a7174272a` Branch: `agent/773bac8b`

**Comment by kim-em** [comment]
Claimed by session `049d8e9d-7808-4c41-b21d-0f480766eda1` on branch `agent/049d8e9d`

**Comment by kim-em** [comment]
Premise check failed: the requested unconditional theorem

```lean
theorem factorFastRaw_irreducible_of_some
    (f : Hex.ZPoly) {rawFactors : Array Hex.ZPoly}
    (hfast :
      Hex.factorFastFactorsWithBound f (Hex.ZPoly.defaultFactorCoeffBound f) =
        some rawFactors) :
    ∀ raw ∈ rawFactors.toList, Hex.ZPoly.Irreducible raw
```

is false as stated. `factorFastFactorsWithBound = some` covers more than the BHKS fast-core success arm; it also includes the degree-zero shortcut, and that shortcut can emit the unit raw factor `1`.

Concrete counterexample, kernel-checked during this session with temporary diagnostics that were removed before exit:

```lean
#guard Hex.factorFastFactorsWithBound (1 : Hex.ZPoly)
    (Hex.ZPoly.defaultFactorCoeffBound (1 : Hex.ZPoly)) =
  some #[(1 : Hex.ZPoly)]

private example :
    ¬ Hex.ZPoly.Irreducible (1 : Hex.ZPoly) := by
  intro h
  exact h.not_unit (Or.inl rfl)
```

Verification run while the diagnostics were present:

- `lake build HexBerlekampZassenhaus` accepted the executable `#guard`, so the raw fast array for `f = 1` at the default bound is exactly `#[1]`.
- `lake build HexBerlekampZassenhausMathlib.PartitionRefinement` accepted the Mathlib-side contradiction proof that `1` is not `Hex.ZPoly.Irreducible`.
- After removing both temporary diagnostics, `lake build HexBerlekampZassenhausMathlib.PartitionRefinement` completed successfully again; source diff is empty except for the pre-existing unrelated `.claude/CLAUDE.md` worktree modification.

The corrected work item should not ask for raw irreducibility from an arbitrary fast success. It needs either:

1. a theorem scoped specifically to the BHKS fast-core success branch, with the existing branch markers (`degree ≠ 0`, `B > 0`, non-singleton modular factorization, no quadratic shortcut when `B > 1`, and the actual `factorFastCoreWithBound ... = some coreFactors`), plus the recovery/cut/completeness discharges; or
2. an assembled fast-raw theorem that first case-splits all fast-success shortcuts and proves only the branches whose raw outputs are actually irreducible, while treating unit/constant shortcuts with the shape consumed by `factor_entries_irreducible` rather than claiming every raw factor is irreducible.

As written, the theorem would imply `Hex.ZPoly.Irreducible 1` from the displayed `hfast`, contradicting `Irreducible.not_unit`.

**Comment by kim-em** [comment]
Skipped by session `049d8e9d-7808-4c41-b21d-0f480766eda1` (needs replan): premise false: factorFastFactorsWithBound 1 default = some #[1], but 1 is not Hex.ZPoly.Irreducible

**Comment by kim-em** [comment]
Replanned in #7765. The original unconditional fast-wrapper theorem is false because , while  is not irreducible. #7765 narrows the work to the BHKS fast-core success substrate and requires wrapper shortcut handling separately.

**Comment by kim-em** [comment]
Replan clarification: #7765 replaces this issue. The false premise is that arbitrary fast-wrapper success implies raw irreducibility; in particular, the input one at the default bound returns an array containing one, and one is not Hex.ZPoly.Irreducible. The replacement scopes the substrate to the BHKS fast-core success branch and requires wrapper shortcuts to be handled separately.
